US03975532
Phenylacetyl chloride (15.46 grams, 0.1 mole), Aldrich Chemical Co., Inc., Milwaukee, Wisconsin, was slowly added to a mixture of hexahydro-1H-furo(3,4-c)pyrrole hydrochloride (14.96 grams, 0.1 mole) and 300 ml aqueous sodium hydroxide (10.0 grams, 0.25 mole NaOH in water) at 10°C. After the phenylacetyl chloride addition, the ice bath was removed and the reaction mixture was stirred for 1.5 hours. The reaction mixture was extracted with diethyl ether (4 × 200 ml) and the extract treated with DARCO G-60 (activated carbon). Removal of diethyl ether gave 5-phenylacetyl-hexahydro-1H-furo(3,4-c)pyrrole (19.35 grams) a clear viscous liquid which solidified on cooling. This product was recrystallized from diethyl ether and had a melting point of 47.5° to 48.5°C.

reactant | Phenylacetyl chloride | 0.1 mole, 15.46 grams | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | hexahydro-1H-furo(3,4-c)pyrrole hydrochloride | 0.1 mole, 14.96 grams | Cl.C1OCC2C1CNC2
reactant | sodium hydroxide | 0.25 mole, 300 ml, 10.0 grams | [OH-].[Na+]
product | 5-phenylacetyl-hexahydro-1H-furo(3,4-c)pyrrole | 19.35 grams | C1(=CC=CC=C1)CC(=O)N1CC2C(C1)COC2 | C14H17NO2
